US09284277B2
a) 1,2,4,5-Tetrahydro-benzo[d]azepine-3-carboxylic acid ethyl ester
To a stirred solution of benzazepine hydrochloride (5.0 g, 27.2 mmol) in DCM (˜50 ml) diisopropyl ethylamine (10.4 ml, 59.8 mmol) was added at 0° C., followed by dropwise addition of ethyl chloroformate (2.86 ml, 29.9 mmol). The reaction was stirred at 0° C. for 1 hour and then allowed to warm to room temperature over 2 hours. LCMS indicated reaction was complete, and 1N HCl (˜100 ml) was added to the reaction. The layers were separated and the aqueous layer was extracted with additional DCM (2×). The combined DCM extracts were washed with brine and dried over Na2SO4. The solvent was evaporated in vacuo and the residue purified by silica-gel chromatography (gradient elution: 0 to 40% EtOAc in hexanes) to provide the sub-title product as an oil (5.5 g). 1HNMR (CDCl3) δ 7.14 (s, 4H), 4.18 (q, J=7.2 Hz, 2H), 3.61 (bs, 4H), 2.92 (bs, 4H), 1.29 (t, J=7.2 Hz, 3H); MS: ESI (positive): 220 (M+H).

reactant | benzazepine hydrochloride | 27.2 mmol, 5.0 g | Cl.N1C=CC=CC2=C1C=CC=C2
reactant | DCM | 59.8 mmol, ˜50 ml | C(Cl)Cl | CH2Cl2
reactant | ethyl chloroformate | 29.9 mmol, 2.86 ml | ClC(=O)OCC | C3H5ClO2
solvent | HCl | 1N, ˜100 ml | Cl | ClH
product | 1,2,4,5-Tetrahydro-benzo[d]azepine-3-carboxylic acid ethyl ester | 5.5 g | C(C)OC(=O)N1CCC2=C(CC1)C=CC=C2 | C13H17NO2
